US08183380B2
Imidazole-1-sulfonic acid cyclopropyl-methyl-amide was prepared in accordance with step A of the general method described in example 76 from cyclopropyl-methylamine and 3-(1H-imidazol-1-ylsulfonyl)-1-methyl-1H-imidazolium trifluoromethanesulfonate; MS: m/e=202.5 (M+H+).

reactant | cyclopropyl-methylamine | C1(CC1)NC | C4H9N
reactant | 3-(1H-imidazol-1-ylsulfonyl)-1-methyl-1H-imidazolium trifluoromethanesulfonate | FC(S(=O)(=O)[O-])(F)F.N1(C=NC=C1)S(=O)(=O)N1C[NH+](C=C1)C
product | Imidazole-1-sulfonic acid cyclopropyl-methyl-amide | C1(CC1)N(S(=O)(=O)N1C=NC=C1)C | C7H11N3O2S
